US06599917B1
c) 2-Benzyl-3-bromo-6-pyridyl Trifluoromethanesulfonate
A mixture of 1.2 g of 2-benzyl-3-bromo-6-hydroxypyridine, 1.7 g of N-phenyltrifluoromethanesulfonimide, 1.9 ml of triethylamine, 28 mg of 4-dimethylaminopyridine and 15 ml of dichloromethane was stirred at room temperature for 3 hours. Silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to silica gel column chromatography using 5% ethyl acetate/hexane, to give 1.6 g of the target compound.

reactant | 2-benzyl-3-bromo-6-hydroxypyridine | 1.2 g | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)O | C12H10BrNO
reactant | N-phenyltrifluoromethanesulfonimide | 1.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 28 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-Benzyl-3-bromo-6-pyridyl Trifluoromethanesulfonate | 1.6 g | FC(S(=O)(=O)OC1=CC=C(C(=N1)CC1=CC=CC=C1)Br)(F)F | C13H9BrF3NO3S
